US07709647B2
To a solution of 3-aminoquinoline (4.32 g, 30 mmol) in anhydrous THF (100 mL) under argon at RT was added dropwise sodium bis(trimethylsilyl)amide (1 M solution in THF, 63 mL, 63 mmol). The resulting dark brown mixture was treated with di-tert-butyl dicarbonate (7.2 g, 33 mmol). After stirring at RT for 2 h, the reaction was quenched with water (30 mL), and 1N aqueous HCl (45 mL). The aqueous layer was separated and extracted with EtOAc (2×70 mL). The combined organics were washed with saturated aqueous NaCl, dried Na2SO4) and concentrated. The residue was chromatographed (silica gel) eluting with EtOAc (0 to 50%) in hexanes to give 3-quinolinylcarbamic acid, 1,1-dimethylethyl ester (6.5 g, 89% yield) as an off-white solid.

reactant | 3-aminoquinoline | 30 mmol, 4.32 g | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | sodium bis(trimethylsilyl)amide | 63 mmol, 1 M, 63 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-tert-butyl dicarbonate | 33 mmol, 7.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-quinolinylcarbamic acid, 1,1-dimethylethyl ester | 6.5 g, 89% yield | N1=CC(=CC2=CC=CC=C12)NC(OC(C)(C)C)=O | C14H16N2O2
